* E:\Projects - Fast Life\Uni\PSE-project\colpitts_osc\colpitts_osc.asc
V1 N001 0 9
R1 N001 N003 10k
R2 N003 0 10k
C3 N003 N005 10p
R4 N004 0 1k
Q1 N002 N003 N004 0 BC547B
C5 Vout N002 100p
R3 N001 N002 1k
C4 N004 0 100n
C1 0 N005 500p
C2 Vout 0 500p
L1 N005 Vout 100n
.model NPN NPN
.model PNP PNP
.lib C:\Users\Soldo\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 1m uic
.backanno
.end
